US09212182B2
To a solution of (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-fluoro-2-methoxyphenyl)amino)phenyl)acrylate (250.0 g, 484.0 mmol, 1.0 equiv) in methanol (2.5 L) was added tri(n-butyl)phosphine (50% solution in ethyl acetate, 48.9 mL, 96.8 mmol, 0.2 equiv, Spectrochem) and the reaction mixture was heated at 70° C. for 5 h. The reaction mixture was allowed to cool to rt, concentrated under reduced pressure to obtain the crude material which was purified by stirring with 5% ethyl acetate in hexanes (1.0 mL) and filtered to obtain 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)quinolin-2(1H)-one (201.0 g, 88%) as off white solid. TLC solvent system: 30% ethyl acetate in hexanes. Product's Rf: 0.3. MS (ESI, positive ion) m/z; 470.0 (M+1). 1H NMR (400 MHz, DMSO) δ 7.92 (d, J=9.1 Hz, 1H), 7.79 (d, J=1.7 Hz, 1H), 7.65 (d, J=6.1 Hz, 1H), 7.57 (d, J=8.8 Hz, 1H), 7.40-7.22 (m, 6H), 6.68 (d, J=9.6 Hz, 1H), 6.56 (d, J=8.8 Hz, 1H), 4.24 (s, 2H), 3.69 (s, 3H).

reactant | (E)-ethyl 3-(5-(benzylthio)-2-((4-bromo-5-fluoro-2-methoxyphenyl)amino)phenyl)acrylate | 484.0 mmol, 250.0 g, 1.0 equiv | C(C1=CC=CC=C1)SC=1C=CC(=C(C1)/C=C/C(=O)OCC)NC1=C(C=C(C(=C1)F)Br)OC | C25H23BrFNO3S
reactant | tri(n-butyl)phosphine | 96.8 mmol, 48.9 mL, 0.2 equiv | C(CCC)P(CCCC)CCCC | C12H27P
solvent | methanol | 2.5 L | CO | CH4O
product | 6-(benzylthio)-1-(4-bromo-5-fluoro-2-methoxyphenyl)quinolin-2(1H)-one | 201.0 g, 88% | C(C1=CC=CC=C1)SC=1C=C2C=CC(N(C2=CC1)C1=C(C=C(C(=C1)F)Br)OC)=O | C23H17BrFNO2S
